US08383635B2
ethyl 4-({3-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]phenyl}amino)-6-methyl-2-(methylthio)-5-pyrimidinecarboxylate
The compound was prepared from 2-[2-(3-aminophenyl)ethyl]-1H-isoindole-1,3(2H)-dione and ethyl 4-chloro-6-methyl-2-(methylthio)-5-pyrimidinecarboxylate following a synthetic route similar to that described for intermediate 11.

reactant | 2-[2-(3-aminophenyl)ethyl]-1H-isoindole-1,3(2H)-dione | NC=1C=C(C=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C16H14N2O2
reactant | ethyl 4-chloro-6-methyl-2-(methylthio)-5-pyrimidinecarboxylate | ClC1=NC(=NC(=C1C(=O)OCC)C)SC | C9H11ClN2O2S
product | ethyl 4-({3-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]phenyl}amino)-6-methyl-2-(methylthio)-5-pyrimidinecarboxylate | O=C1N(C(C2=CC=CC=C12)=O)CCC=1C=C(C=CC1)NC1=NC(=NC(=C1C(=O)OCC)C)SC | C25H24N4O4S
